US07053107B2
2-[3-Pyridin-2-ylethynyl-1H-indazol6-ylamino]-benzoic acid
A solution of 2-[3-Pyridin-2-ylethynyl- -(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid (231 mg, 0.477), 1M tetrabutylammonium fluoride in THF (3.8 mL, 3.816 mmol), and ethylenediamine (127 μL, 1.908 mmol), were stirred in an oil bath at 80 deg C. for 6 h. The reaction was quenched with acetic acid (218 μL, 3.816 mmol), diluted with water, and extracted with EtOAc (10×50 mL). The combined organics were washed with brine and dried over MgSO4. After concentrating a solid forms which was triturated with CH2Cl2, giving the product as a yellow powder (124 mg, 73%). ESIMS M−H−): 353.0.

reactant | 2-[3-Pyridin-2-ylethynyl- -(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid | 231 mg | N1=C(C=CC=C1)C#CC1=NNC2=CC(=CC=C12)N(C1=C(C(=O)O)C=CC=C1)COCC[Si](C)(C)C | C27H28N4O3Si
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 3.816 mmol, 3.8 mL | C1CCOC1 | C4H8O
reactant | ethylenediamine | 1.908 mmol, 127 μL | C(CN)N | C2H8N2
reactant | acetic acid | 3.816 mmol, 218 μL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[3-Pyridin-2-ylethynyl-1H-indazol6-ylamino]-benzoic acid | 124 mg, 73% | N1=C(C=CC=C1)C#CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C21H14N4O2
